US07067506B2
1-(2-methoxy-4-nitrophenyl)-3-pyrazin-2-yl-urea
A mixture of 2-methoxy-4-nitrophenyl iso-cyanate (15.0 g, 77 mmol) and aminopyrazine (7.35 g, 77 mmol) in THF (600 mL) was stirred at reflux for 24 hours. The product precipitated from the cooled reaction mixture and was collected by filtration, washed with ethyl acetate, triturated with hot ethanol, and dried in vacuo (16.3 g, 73%). 1H NMR (300 Mhz, d6DMSO) δ: 10.50 (br s, 1H), 10.42 (s, 1H), 8.94 (s, 1H), 8.48 (d, 1H), 8.39 (s, 1H), 8.32 (d, 1H), 7.95 (dd, J=9.1, 2.4 Hz, 1H), 7.84(d, J=2.4 Hz, 1 H), 4.08 (s, 3H)

reactant | 2-methoxy-4-nitrophenyl iso-cyanate | 77 mmol, 15.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N=C=O | C8H6N2O4
reactant | aminopyrazine | 77 mmol, 7.35 g | NC1=NC=CN=C1 | C4H5N3
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1-(2-methoxy-4-nitrophenyl)-3-pyrazin-2-yl-urea | COC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=NC=CN=C1 | C12H11N5O4
